.SUBCKT delay_line 31 VF4 PARAMS: C_val1=15.33p L_val1=38.33n

C3 VF1 0 C_val1
C4 VF2 0 C_val1
C5 VF3 0 C_val1
XU 31 VF1 lumped PARAMS: C_val=C_val1 L_val=L_val1

XU1 VF1 VF2 lumped PARAMS: C_val=C_val1 L_val=L_val1

XU2 VF2 VF3 lumped PARAMS: C_val=C_val1 L_val=L_val1

XU4 VF3 VF4 lumped PARAMS: C_val=C_val1 L_val=L_val1
.ends delay_line

.SUBCKT lumped 31 VF1 PARAMS: C_val=15.33p L_val=38.33n
C31         2 0 C_val 
C30         3 0 C_val 
C29         4 0 C_val
C28         5 0 C_val
C27         6 0 C_val
C26         7 0 C_val
C25         8 0 C_val
C24         9 0 C_val
C23         10 0 C_val
L30         2 VF1 L_val IC=0 
L29         3 2 L_val IC=0 
L28         4 3 L_val IC=0 
L27         5 4 L_val IC=0 
L26         6 5 L_val IC=0 
L25         7 6 L_val IC=0 
L24         8 7 L_val IC=0 
L23         9 8 L_val IC=0 
L22         10 9 L_val IC=0 
L21         11 10 L_val IC=0 
C11         11 0 C_val 
C21         12 0 C_val
C20         13 0 C_val
C19         14 0 C_val
C18         15 0 C_val
C17         16 0 C_val
C16         17 0 C_val
C15         18 0 C_val
C14         19 0 C_val
C13         20 0 C_val
L20         12 11 L_val IC=0 
L19         13 12 L_val IC=0 
L18         14 13 L_val IC=0 
L17         15 14 L_val IC=0 
L16         16 15 L_val IC=0 
L15         17 16 L_val IC=0 
L14         18 17 L_val IC=0 
L13         19 18 L_val IC=0 
L12         20 19 L_val IC=0 
L11         21 20 L_val IC=0 
C12         21 0 C_val
C10         22 0 C_val
C9          23 0 C_val
C8          24 0 C_val
C7          25 0 C_val
C6          26 0 C_val
C5          27 0 C_val
C4          28 0 C_val
C3          29 0 C_val
C2          30 0 C_val
L10         22 21 L_val IC=0 
L9          23 22 L_val IC=0 
L8          24 23 L_val IC=0 
L7          25 24 L_val IC=0 
L6          26 25 L_val IC=0 
L5          27 26 L_val IC=0 
L4          28 27 L_val IC=0 
L3          29 28 L_val IC=0 
L2          30 29 L_val IC=0 
L1          31 30 L_val IC=0
.ENDS lumped